US06114325
[2-[[N-(3-Morpholinopropyl)carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 13)
4N Hydrochloric acid--ethyl acetate solution (0.26 ml) was added to a solution of [2-[[N-(3-morpholinopropyl)carbamoyloxy]methyl]phenyl]-N-octadecylformamide (0.30 g) in ethyl acetate (4 ml) at room temperature. After being stirred for 10 minutes, the reaction mixture was concentrated. The residue was recrystallized from ethyl acetate-ethanol mixed solvent, thereby yielding 0.27 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-(3-morpholinopropyl)carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 0.30 g | O1CCN(CC1)CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC | C34H59N3O4
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.26 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-(3-Morpholinopropyl)carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.27 g | Cl.O1CCN(CC1)CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC | InChI=1S/C34H59N3O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-25-37(31-38)33-22-18-17-21-32(33)30-41-34(39)35-23-20-24-36-26-28-40-29-27-36;/h17-18,21-22,31H,2-16,19-20,23-30H2,1H3,(H,35,39);1H
